US07282583B2
Step 2: Production of Methyl-4-(2-acetyloxyethyl)-2-cyano-5-methoxypenta-2,4-dienoate
Into a dried 3L three neck-round bottom flask with a stirrer bar, nitrogen-inlet, thermocouple and a addition funnel were charged 150 g (851.26 mmol) 3-(dimethoxymethyl)-2-methoxyoxolane, 355.27 g (3.48 mol) Ac2O and 2.12 g (15.55 mmol) ZnCl2 and the mixture was heated for 1.25-1.5 h at 100-120° C. to reflux. The solution started to become brown and a small portion of solvent was distilled off at atmospheric pressure. To the reaction mixture 76.7 g (774 mmol) methylcyanacetate was slowly added over 1 h while continuing to distill off solvent. After the addition was completed, the reaction mixture was evacuated and the residual solvent was distilled off. The residue was treated with 224 g MeOH and again evacuated and the solvent was distilled off. The residual black oil was charged with 500 ml CH2Cl2 and washed twice with 500 ml water. The solvent was distilled off under reduced pressure and the residue was treated with a mixture of 350 ml MTBE and 285 ml heptane. The reaction mixture was heated to reflux at 55-60° C. for 1½ h, then cooled down to 0° C. and kept at 0° C. for 16 h. The crystals were filtered off and three times washed with cold 250 ml MTBE.

reactant | 3-(dimethoxymethyl)-2-methoxyoxolane | 851.26 mmol, 150 g | COC(C1C(OCC1)OC)OC | C8H16O4
reactant | Ac2O | 3.48 mol, 355.27 g | CC(=O)OC(=O)C | C4H6O3
reactant | methylcyanacetate | COC(CC#N)=O | C4H5NO2
catalyst | ZnCl2 | 15.55 mmol, 2.12 g | [Cl-].[Cl-].[Zn+2]
product | Methyl-4-(2-acetyloxyethyl)-2-cyano-5-methoxypenta-2,4-dienoate | COC(C(=CC(=COC)CCOC(C)=O)C#N)=O | C12H15NO5
